US07943651B2
Intermediate 23: Methyl 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoate
2-{2-[5-Fluoro-2-(methyloxy)phenyl]-2-methylpropyl}-2-(trifluoromethyl)oxirane (which may be prepared according to WO 04/063163, 96 mg, 0.33 mmol), methyl 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoate (85 mg, 0.3 mmol) and ytterbium trifluoromethanesulfonate (28 mg, 0.045 mmol) were stirred in acetonitrile (0.4 mL) with some molecular sieves. The resulting mixture was then heated to reflux (80° C.) overnight and then allowed to cool to room temperature. The mixture was poured into ethyl acetate (5 mL) and washed successively with saturated aqueous sodium bicarbonate and aqueous brine. The organic phase was separated, dried over anhydrous sodium sulphate and then concentrated and the residue purified by silica gel column chromatography (10% ethyl acetate in cyclohexane) to give the title compound as a white solid (75 mg).

reactant | 2-{2-[5-Fluoro-2-(methyloxy)phenyl]-2-methylpropyl}-2-(trifluoromethyl)oxirane | 0.33 mmol, 96 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | methyl 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoate | 0.3 mmol, 85 mg | NC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OC)C=CC1 | C16H15N3O2
reactant | ytterbium trifluoromethanesulfonate | 0.045 mmol, 28 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 0.4 mL | C(C)#N | C2H3N
product | Methyl 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoate | 75 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OC)C=CC1)(C(F)(F)F)O)(C)C)OC | C30H31F4N3O4
